US07410984B2
3-(4-Pyridin-3-yl-phenyl)propionic acid ethyl ester (P21)
1,1′-Bis(diphenylphosphino)ferrocenedichloropalladium(II) (0.1 g, 0.1 mmol) was added to a stirred and degassed solution of 3-bromopyridine (1.5 ml, 15.6 mmol) and 4-[2-ethoxycarbonylethyl]phenylboronic acid (P20) (3.5 g, 15.8 mmol) in dimethyl formamide (30 mL) and 2N sodium carbonate solution in water (15 mL). The reaction mixture was stirred at 100° C. for 18 hours, then allowed to cool. The solution was filtered through celite, then ethyl acetate (100 mL) was added and the organic phase was washed three times with brine (100 mL). The organic layer was dried (anhydrous magnesium sulfate), concentrated and purified by chromatography on silica gel (30% v/v ethyl acetate in petroleum ether) to afford the title compound as an oil.

reactant | 3-bromopyridine | 15.6 mmol, 1.5 ml | BrC=1C=NC=CC1 | C5H4BrN
reactant | 4-[2-ethoxycarbonylethyl]phenylboronic acid | 15.8 mmol, 3.5 g | C(C)OC(=O)CCC1=CC=C(C=C1)B(O)O | C11H15BO4
solvent | dimethyl formamide | 30 mL | CN(C=O)C | C3H7NO
solvent | sodium carbonate | 2N | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 15 mL | O | H2O
catalyst | 1,1′-Bis(diphenylphosphino)ferrocenedichloropalladium(II) | 0.1 mmol, 0.1 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 3-(4-Pyridin-3-yl-phenyl)propionic acid ethyl ester | C(C)OC(CCC1=CC=C(C=C1)C=1C=NC=CC1)=O | C16H17NO2
